US05591862
According to the method described for Reference Example 35, (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-buten-1-al was allowed to react with diethyl cyanomethylphosphonate gave (E,E)-5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-hexadienenitrile. Recrystallization from ethyl acetate--hexane gave colorless prisms, m.p.134°-136° C.

reactant | (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-buten-1-al | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)/C(=C/C=O)/C | C21H19NO3
reactant | diethyl cyanomethylphosphonate | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
product | (E,E)-5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-hexadienenitrile | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)/C(=C/C=C/C#N)/C | C23H20N2O2
